US05886044
b) Preparation of 4-amino-3-hydroxybenzophenone
A mixture of 4-nitro-3-hydroxybenzophenone (900 mg, 3.7 mmol) and tin (II) chloride (2.5 g, 11.1 mmol) in ethanol(50 mL) was heated at 80° C. under argon. After 2 hours, the starting material has disappeared and the solution was allowed to cool down and then poured into ice. The pH was made slightly basic (pH7-8), by addition of solid NaOH, before being extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (4% MeOH/CH2Cl2) gave the desired product(685 mg, 87%). 1H NMR (CD3OD): δ 7.65 (d, 2H), 7.55 (d, 1H), 7.49 (t, 2H), 7.26 (s, 1H), 7.16 (dd, 1H), 6.68 (d, 1H).

reactant | 4-nitro-3-hydroxybenzophenone | 3.7 mmol, 900 mg | [N+](=O)([O-])C1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)O | C13H9NO4
reactant | tin (II) chloride | 11.1 mmol, 2.5 g | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-amino-3-hydroxybenzophenone | 685 mg, 87% | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)O | C13H11NO2
